US06080743
e) 7-Bromo-5-bromomethyl-2,3-dimethoxy-quinoxaline
15 g (53 mmol) of 7-bromo-5-methyl-2,3-dimethoxy-quinoxaline, 9.9 g (1.05 equiv.) of N-bromosuccinimide and 0.87 g (0.1 equiv.) of azo-isobutyronitrile are dissolved in 100 ml of carbon tetrachloride and the solution is stirred at reflux for 24 hours. The solid is filtered off and the filtrate is diluted with dichloromethane, then washed once with each of water and brine. The organic phase is dried over magnesium sulfate and concentrated by evaporation. The residue is recrystallized from ethyl acetate and hexane. The title compound is obtained in the form of light-orange crystals.

reactant | 7-bromo-5-methyl-2,3-dimethoxy-quinoxaline | 53 mmol, 15 g | BrC1=CC(=C2N=C(C(=NC2=C1)OC)OC)C | C11H11BrN2O2
reactant | N-bromosuccinimide | 9.9 g, 1.05 equiv. | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | carbon tetrachloride | 100 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 7-Bromo-5-bromomethyl-2,3-dimethoxy-quinoxaline | BrC1=CC(=C2N=C(C(=NC2=C1)OC)OC)CBr | C11H10Br2N2O2
